US06235922B1
(A) 2-(Bromomethyl)benzenemethanol
To a solution of 1M BBr3 in CH2Cl2 (49.2 mL, 49.2 mmol) cooled at 0° C. was added dropwise over 45 minutes a solution of phthalan (17.40 g, 142.6 mmol) in CH2Cl2 (30 mL). After the addition, the mixture was heated to reflux (oil bath) for 1 hour, then cooled to room temperature and quenched with water (50 mL). The mixture was washed with H2O (100 mL), 50% saturated NaHCO3 (100 mL), H2O (100 mL), brine, dried (MgSO4) and concentrated in vacuo to give a brownish solid, which was crystallized from EtOAc/hexane to afford 16.442 g of the title compound of this step as a light yellow crystalline compound. The mother liquor was concentrated and the residue crystallized (EtOAc/hexane) to yield an additional 6.30 g of the title compound of this step (total amount of product: 22.742 g, 80% yield).

reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | phthalan | 142.6 mmol, 17.40 g | C1C2=CC=CC=C2CO1 | C8H8O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 49.2 mmol, 49.2 mL | C(Cl)Cl | CH2Cl2
product | 2-(Bromomethyl)benzenemethanol | 16.442 g, 80% yield | BrCC1=C(C=CC=C1)CO | C8H9BrO
